US04990508
To 0.5 ml of a 30% hydrogen bromide-acetic acid solution was added with ice-cooling, 50 mg of (S)-10-(2-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid. The resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue obtained were added 5 ml of chloroform and 5 ml of water in this order. The aqueous layer was separated. The solvent was removed by distillation under reduced pressure. Diethyl ether was added to the residue obtained and the resulting crystals were collected by filtration to obtain 30 mg (yield: 68.2%) of (S)-10-(2-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrobromide.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | (S)-10-(2-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 50 mg | C(C1=CC=CC=C1)OC(=O)NC1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | C24H21FN2O6
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
product | (S)-10-(2-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrobromide | 30 mg, yield: 68.2% | Br.NC1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | InChI=1S/C16H15FN2O4.BrH/c1-6-5-23-15-12(7-3-11(7)18)10(17)2-8-13(15)19(6)4-9(14(8)20)16(21)22;/h2,4,6-7,11H,3,5,18H2,1H3,(H,21,22);1H/t6-,7?,11?;/m0./s1
